US07666879B2
[2-(4-imidazo[1,2-a]pyridin-7-yl-pyridin-2-yl)-1-methyl-ethyl]-carbamic acid tert-butyl ester
Dissolve 2-(4-imidazo[1,2-a]pyridin-7-yl-pyridin-2-yl)-1-methyl-ethylamine (0.1 g, 0.4 mmol) in a mixture of THF (10 mL) and DCM (10 mL) under nitrogen. Add di-tert-butyl-dicarbonate (0.095 g, 1.1 equiv.). Stir 45 minutes at room temperature then dilute with ethyl acetate. Extract organics with water, 1 N NaOH (aq), then aqeuous sodium chloride. Dry organics over MgSO4, then filter and concentrate. Purify by silica gel (10% Methanol:DCM) to give product (0.125 g, 89%). MS (ES), m/z 353.2 (M+1).

reactant | 2-(4-imidazo[1,2-a]pyridin-7-yl-pyridin-2-yl)-1-methyl-ethylamine | 0.4 mmol, 0.1 g | N=1C=CN2C1C=C(C=C2)C2=CC(=NC=C2)CC(C)N | C15H16N4
reactant | di-tert-butyl-dicarbonate | 0.095 g, 1.1 equiv. | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 1 N | [OH-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | [2-(4-imidazo[1,2-a]pyridin-7-yl-pyridin-2-yl)-1-methyl-ethyl]-carbamic acid tert-butyl ester | 0.125 g, 89% | C(C)(C)(C)OC(NC(CC1=NC=CC(=C1)C1=CC=2N(C=C1)C=CN2)C)=O | C20H24N4O2
